US05175371
Isovaleraldehyde (2.15 g, 2.68 mL, 25 mmol) in ether (6 mL) was added dropwise to a rapidly stirred solution of B-Isoprenylbis(2-isocaranyl)borane, 2-Icr2BIpn (example 14) maintained in THF at -78° C. Stirring was continued for 1 h, when the 11B NMR spectrum of an aliquot showed a peak at δ 52 ppm corresponding to a borinate indicating completion of the reaction. The reaction mixture was warmed to 0° C. and acetaldehyde (2.1 mL, 37.5 mmol) was added when one equiv of 2-carene was eliminated. 11B NMR showed a peak at δ 32 ppm corresponding to a boronate. The solvents were removed in vacuo and EE (20 mL) was added, followed by 1.1 equiv of diethanolamine (2.6 mL, 27.5 mmol). Stirring was continued for 2 h and the precipitated boron components were filtered and the filtrate concentrated. Distillation (92°-94° C./19 mm Hg) provided 2.3 g (60%) of (-)-ipsenol, [α]D =-18.1° which corresponds to 98% ee. The spectral properties were identical to the sample obtained from example 9.

reactant | Isovaleraldehyde | 25 mmol, 2.68 mL, 2.15 g | C(CC(C)C)=O | C5H10O
reactant | borinate | B[O-]
reactant | acetaldehyde | 37.5 mmol, 2.1 mL | C(C)=O | C2H4O
reactant | 2-carene | one equiv | C12C=C(CCC1C2(C)C)C | C10H16
reactant | boronate | B([O-])[O-]
reactant | diethanolamine | 27.5 mmol, 2.6 mL, 1.1 equiv | N(CCO)CCO | C4H11NO2
solvent | ether | 6 mL | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | (-)-ipsenol | 2.3 g, 60% | CC(C)C[C@H](CC(=C)C=C)O | C10H18O
